US05334600
To a solution of 5-(4-fluorophenyl)-2-methylpyridine (420 mg, 2.2 mmol) in CH2C2 (25 mL) is added m-chloroperbenzoic acid (600 mg, 3.4 mmol). After 16 hours the reaction mixture is diluted with CH2Cl2 (50 mL) and the resulting solution washed with 5N NaOH (2×75 mL). The organic phase is then dried with Na2SO4 and concentrated in vacuo to give 5-(4-fluorophenyl)-2-methylpyridine-N -oxide.

reactant | 5-(4-fluorophenyl)-2-methylpyridine | 2.2 mmol, 420 mg | FC1=CC=C(C=C1)C=1C=CC(=NC1)C | C12H10FN
reactant | m-chloroperbenzoic acid | 3.4 mmol, 600 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-(4-fluorophenyl)-2-methylpyridine-N -oxide | FC1=CC=C(C=C1)C=1C=CC(=[N+](C1)[O-])C | C12H10FNO
